US06307047B1
2-(2,2,2-Trifluoroethyl)-4-hydroxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone
A solution of 2-(2,2,2-Trifluoroethyl)-4-methoxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone (2 g, 6.1 mmol) and hydrobromic acid (40% in water, 20 mL) in acetic acid (40 mL) was heated at reflux for 3 hours. The reaction mixture was cooled to room temperature and water (50 mL) was added. The crystals formed were filtered, washed with water and 5% ethyl acetate in hexanes, and dried to constant weight. The product was obtained as a white solid (yield: 1.75 g, 91%). 1H NMR (300 MHz, CDCl3) δ 2.54 (s, 3H), 4.82 (q, J=9 Hz, 2H), 7.47 (d, J=9 Hz, 2H), 7.65 (d, J=9 Hz, 2H), 7.73 (br s, 1H), 8.00 (s, 1H). MS (DCI) m/z 317 (M+H)+.

reactant | 2-(2,2,2-Trifluoroethyl)-4-methoxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone | 6.1 mmol, 2 g | FC(CN1N=CC(=C(C1=O)OC)C1=CC=C(C=C1)SC)(F)F | C14H13F3N2O2S
reactant | hydrobromic acid | 20 mL | Br | BrH
reactant | water | 50 mL | O | H2O
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 2-(2,2,2-Trifluoroethyl)-4-hydroxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone | yield: 1.75 g, 91% | FC(CN1N=CC(=C(C1=O)O)C1=CC=C(C=C1)SC)(F)F | C13H11F3N2O2S
